US08871756B2
2-Chloro-6-{[1-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)ethylidene]amino}benzonitrile
Phosphorus oxychloride (2.93 mL, 32.0 mmol) was added to a stirred solution of 1-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)ethanone (5.5 g, 29.0 mmol) in dry dichloromethane (100 mL) at 10° C. After that, the mixture was stirred for 20 minutes at room temperature. Then a solution of 2-amino-6-chloro-benzonitrile (4.43 g, 29.0 mmol) in dry dichloromethane (40 mL) was added and the resulting suspension was heated under reflux for 24 hours. After the reaction mixture was cooled to room temperature, water (50 mL) was added followed by saturated sodium bicarbonate to pH 8. The organic layer was separated and the aqueous was extracted with dichloromethane (100 mL). The organic fraction was washed with brine and dried over sodium sulfate, and then evaporated in vacuo to give a residue which was precipitated in ether. The solid was collected by filtration and dried in vacuo to give 6 g of product as a brown powder (yield was 63.7%). It was used in the next step without further purification. MS obsd. (ESI+) [(M+H)+] 324.

reactant | Phosphorus oxychloride | 32.0 mmol, 2.93 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)ethanone | 29.0 mmol, 5.5 g | C1N(CCCC2=C1C=CC=C2)C(C)=O | C12H15NO
reactant | 2-amino-6-chloro-benzonitrile | 29.0 mmol, 4.43 g | NC1=C(C#N)C(=CC=C1)Cl | C7H5ClN2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-Chloro-6-{[1-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)ethylidene]amino}benzonitrile | 6 g, yield was 63.7% | ClC1=C(C#N)C(=CC=C1)N=C(C)N1CC2=C(CCC1)C=CC=C2 | C19H18ClN3
